US06172062B2
A mixture of 2,3-dihydroxybenzoic acid(994 g), ethanol (3.8 L) and sulfuric acid (320 g) was refluxed for 44 hours. A portion of the solvent distilled out of the solution, and the solution was cooled and stirred overnight, and then further cooled in an ice/water bath. To the solution was added water (5.6 L). The solution was aged, and the crystals were filtered, washed with water, and dried to give ethyl 2,3-dihydroxybenzoate (1002 g, 85%); m.p. 66.0-67.2° C.

reactant | 2,3-dihydroxybenzoic acid | 994 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
reactant | sulfuric acid | 320 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 3.8 L | C(C)O | C2H6O
product | ethyl 2,3-dihydroxybenzoate | 1002 g, 85% | OC1=C(C(=O)OCC)C=CC=C1O | C9H10O4
